US06518257B1
(i) Production of 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
By the reaction in the same manner as in Example 29-(i) using 1-(4-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (1.50 g), 3-methoxyphenylboronic acid (635 mg), 2M aqueous sodium carbonate solution (2.79 ml) and tetrakis(triphenylphosphine)palladium(0) (96.7 mg), the title compound (1.01 g) was obtained as colorless powder crystals.

reactant | 1-(4-bromophenyl)-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 1.50 g | BrC1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29BrN2O
reactant | 3-methoxyphenylboronic acid | 635 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 2.79 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 96.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3′-methoxy[1,1′-biphenyl]-4-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.01 g | COC=1C=C(C=CC1)C1=CC=C(C=C1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36N2O2
